### ISSUE TITLE
Lean accepts `{! !}` within proofs leading to inconsistent type-checking. 

### ISSUE THREAD

**Issue by spolu** [leanprover-community/lean#725]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover-community/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Lean accepts `{! !}` within proofs leading to inconsistent type-checking. 

Zulip discussion: https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Question.20about.20.7B!.20!.7D

### Steps to Reproduce

```
import data.finset.basic
import data.nat.interval

example
  (vertices : finset ℕ)
  (diagonals : finset (finset ℕ))
  (h₀ : vertices = finset.Icc 1 5)
  (h₁ : ∀ (m n : ℕ), ({m,n} : finset ℕ) ∈ diagonals ↔
    {m,n} ⊂ vertices ∧ m ≠ n ∧ m ≠ n + 1 ∧ m ≠ n - 1 ∧ {m,n} ≠ ({1,5} : finset ℕ)) :
  diagonals.card = 5 :=
begin
  have h₂ : diagonals = {! {2,4}, {1,3}, {3,5} !}, {
    dec_trivial!,
  },
  rw h₂,
  dec_trivial!,
end
```

**Expected behavior:**

Errors

**Actual behavior:**

Gladly accepts the proof

**Reproduces how often:** 

100%

### Versions

Lean (version 3.42.1, commit 68455b087d87, Release)

**Comment by spolu** [comment]
Actually interpreted as a `sorry` and reported as a warning at build. Closing

**Comment by gebner** [comment]
> Gladly accepts the proof

I'm getting a warning here:
```
/home/gebner/mathlib/725.lean:4:0: warning: declaration '[anonymous]' uses sorry
```

There's a whole bunch of tactics which don't fail immediately but ultimately result in an invalid proof.  Here's some archetypical ones from the top of my head:
```lean
example : false := by tactic.set_goals []
example : false := by exact undefined
example : false := by exact sorry

example : false :=
begin
  tactic.add_decl (declaration.ax `very.clever [] `(false)),
  exact very.clever,
end
```

The last one doesn't even produce a warning.  In general, the whole trust model of Lean depends on the kernel type checker.  Tactics will occasionally produce invalid proof terms due to bugs.
